US04215128
1-Benzyloxycarbonylmethyl-4-methylthioazetidin-2-one (2.65 g) was dissolved in methylene dichloride (50 ml) and the solution was stirred and ice cooled while a solution of chlorine (0.71 g) in carbon tetrachloride (7 ml) was added in one portion. The mixture was stirred for 3 minutes and then the solvent was evaporated under reduced pressure to yield 1-benzyloxycarbonylmethyl-4-chloroazetidin-2-one as a pale yellow oil (2.65 g).

reactant | 1-Benzyloxycarbonylmethyl-4-methylthioazetidin-2-one | 2.65 g | C(C1=CC=CC=C1)OC(=O)CN1C(CC1SC)=O | C13H15NO3S
reactant | chlorine | 0.71 g | ClCl | Cl2
solvent | methylene dichloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-benzyloxycarbonylmethyl-4-chloroazetidin-2-one | 2.65 g | C(C1=CC=CC=C1)OC(=O)CN1C(CC1Cl)=O | C12H12ClNO3
